US03954776
19 g of epichlorohydrin is added to a mixture of 18.5 g of 3-(2-pyridylmethyl)phenol, 4.2 g of sodium hydroxide and 200 ml of methanol, and the resulting mixture is stirred at about 50°C for 3 hours. The methanol is then removed, water is added to the residue, and the aqueous solution is extracted with 200 ml of benzene. The benzene layer is washed with 5% sodium hydroxide and with water, and dried over anhydrous magnesium sulfate. The benzene is removed to give 15.0 g of 1,2-epoxy-3-[3-(2-pyridylmethyl)-phenoxy] propane as oil.

reactant | epichlorohydrin | 19 g | C(Cl)C1CO1 | C3H5ClO
reactant | 3-(2-pyridylmethyl)phenol | 18.5 g | N1=C(C=CC=C1)CC=1C=C(C=CC1)O | C12H11NO
reactant | sodium hydroxide | 4.2 g | [OH-].[Na+]
solvent | methanol | 200 ml | CO | CH4O
product | 1,2-epoxy-3-[3-(2-pyridylmethyl)-phenoxy] propane | 15.0 g | O1CC1COC1=CC(=CC=C1)CC1=NC=CC=C1 | C15H15NO2
